US06017936
A solution of 24 g of 20% ZnSO4, 0.5 g "DARVAN" (sodium salt of polymerized alkyl naphthalene sulfonic acids) and 25.5 g of water is introduced into and recirculated through a model M-140K Laboratory Microfluidizer Processor (Microfluidics International Corp., Newton Mass.) which included a fixed geometry interaction chamber. The entire apparatus is cooled to approximately 7° C., and pressure is maintained in the Microfluidizer at about 18,000 psi. A solution of sodium pyrithione (45 mL of a 16.3% solution) is added to the inlet of the reservoir of the Microfluidizer over an 8 minute period, and circulation of the reactants continued for 5-10 minutes. As the reaction mixture circulated through the Microfluidizer apparatus, the fixed geometry interaction chamber divides the reaction mixture into two streams. The streams are then brought together under pressure to generate turbulence and pulverizing forces that result in size reduction of the zinc pyrithione particles. The particles of zinc pyrithione thus formed are measured by a laser light scattering particle size analyzer (Horiba LA910). Table I shows the size distribution and frequency of the particles. The median particle size is approximately 0.313 μm. The particle size distribution is very narrowly dispersed (nearly mono dispersed) and exhibits a size range from about 0.30 to about 0.45 μm.

reactant | ZnSO4 | 24 g | [O-]S(=O)(=O)[O-].[Zn+2]
reactant | sodium | [Na] | Na
reactant | sodium pyrithione | C1=CC(=S)N(C=C1)[O-].[Na+]
solvent | water | 25.5 g | O | H2O
product | zinc pyrithione | C1=CC(=S)N(C=C1)[O-].C1=CC(=S)N(C=C1)[O-].[Zn+2] | InChI=1S/2C5H4NOS.Zn/c2*7-6-4-2-1-3-5(6)8;/h2*1-4H;/q2*-1;+2
